US09403827B2
Step 12.1: 4-Methoxy-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile
To a solution of 3-bromo-4-methoxybenzonitrile (3 g, 14.15 mmol), bis(pinacolato)diboron (7.2 g, 28.4 mmol) and potassium acetate (4.2 g, 42.8 mmol) in DMSO (50 ml), PdCl2(dppf)-CH2Cl2 adduct (1.15 g, 1.408 mmol) were added under argon and the mixture was degassed and stirred at 100° C. for 3 hour. The reaction mixture was quenched with saturated NaHCO3 and extracted with EtOAc. The organic phase was dried (Na2SO4), filtered and concentrated to dryness. The crude product was purified by chromatography (Silicagel, heptane, EtOAc). The pure fractions were recombined and concentrated under reduced pressure to give 3.46 g (13.09 mmol, 92% yield) of the title compound as a colourless oil. 1H-NMR (d6-DMSO, 400.13 MHz) δ ppm 7.92 (d, 1H) 7.80 (s, 1H) 7.14 (d, 1H) 3.82 (s, 3H) 1.26 (s, 12H).

reactant | 3-bromo-4-methoxybenzonitrile | 14.15 mmol, 3 g | BrC=1C=C(C#N)C=CC1OC | C8H6BrNO
reactant | bis(pinacolato)diboron | 28.4 mmol, 7.2 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 42.8 mmol, 4.2 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf) CH2Cl2 | 1.408 mmol, 1.15 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 4-Methoxy-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile | 13.09 mmol, 3.46 g, 92% yield | COC1=C(C=C(C#N)C=C1)B1OC(C(O1)(C)C)(C)C | C14H18BNO3
